US04208426
(1) 7-Hydroxy-8-propyl-2,2,4,5-tetramethylchroman
An amount of 1.77 g. of 2-methylpentane-2,4-diol were added dropwise at the temperature of approximately 60° C. to a mixed solution prepared from 2.49 g. of 2-propyl-5-methyl resorcinol, 15 ml of isopropyl ether and 1 ml of concentrated sulfuric acid. The solution was cooled, and successively washed with water, aqueous 1 N sodium hydroxide solution, and again with water, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by subjecting to column chromatography filled with silica gel. There were thus obtained 2.7 g. (yield: 72.6%) of the subject compound in oily form.

reactant | 2-methylpentane-2,4-diol | CC(C)(CC(C)O)O | C6H14O2
reactant | 2-propyl-5-methyl resorcinol | C(CC)C1=C(O)C=C(C=C1O)C | C10H14O2
reactant | isopropyl ether | 15 ml | C(C)(C)OC(C)C | C6H14O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Hydroxy-8-propyl-2,2,4,5-tetramethylchroman | yield: 72.6% | OC1=CC(=C2C(CC(OC2=C1CCC)(C)C)C)C | C16H24O2
